chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[F-:2].[F:1][C@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[H:21]>>[C:4](=[C:5](/[C:11]#[N:12])[H:21])(\[H:31])[C:41]([H:42])([H:43])[H:44].[F-:1].[F:2][H:3],10.741765299272542
[F:1][C@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([H:11])[C:21]#[N:22].[H-:2]>>[F-:1].[H:2][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([H:11])[C:21]#[N:22],3.7879312258496296
[Cl-:2].[Cl:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[H:21]>>[Cl-:1].[Cl:2][C@@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[H:21],21.9085529767733
[Cl:1][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23].[F-:2]>>[Cl-:1].[F:2][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23],24.240205355080047
[Br:1][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[Cl-:2]>>[Br-:1].[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24])([N:31]([H:32])[H:33])[C:41]#[N:42].[Cl:2][H:3],26.166018679873496
[Br-:2].[F:1][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23]>>[Br:2][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23].[F-:1],65.467572375783
[Br-:2].[Br:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[H:21]>>[Br-:1].[Br:2][C@@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[H:21],30.816109077373195
[Br:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22].[F-:2]>>[Br-:1].[F:2][C@@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22],3.289200047920129
[Cl:1][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]([H:12])([H:13])[H:14])[H:21].[F-:2]>>[Cl-:1].[F:2][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]([H:12])([H:13])[H:14])[H:21],10.731097027872636
[F:1][C:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([H:11])[H:21].[H-:2]>>[C:4](=[C:5]([H:11])[H:21])([C:31]#[N:32])[H:41].[F-:1].[H:2][H:3],0.3391791564815567
[Br-:2].[Cl:1][C@:5]([C:4]([H:3])([H:31])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23]>>[Br:2][C@@:5]([C:4]([H:3])([H:31])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23].[Cl-:1],35.372134422195685
[F:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[H:21].[H-:2]>>[C:4](=[C:5](/[N:11]([H:12])[H:13])[H:21])(\[N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43].[F-:1].[H:2][H:3],5.526215462070125
[F:1][C@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44])([C:11]([H:12])([H:13])[H:14])[H:21].[H-:2]>>[F-:1].[H:2][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44])([C:11]([H:12])([H:13])[H:14])[H:21],24.34047887952003
[Cl:1][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23].[F-:2]>>[Cl-:1].[F:2][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23],29.781139594174924
[F-:2].[F:1][C@:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[H:21]>>[F-:1].[F:2][C@@:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[H:21],35.12672802963573
[Br:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23].[Cl-:2]>>[Br-:1].[Cl:2][C@@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23],11.847610348487189
[Br:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23].[H-:2]>>[Br-:1].[H:2][C@@:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23],2.1664710623781818
[F-:2].[F:1][C:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24]>>[F-:1].[F:2][C:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24],42.58764657296175
[Cl-:2].[Cl:1][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24]>>[Cl-:1].[Cl:2][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24],30.70588619060513
[Cl-:2].[Cl:1][C@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44])([N+:11]([O-:12])[O:13])[C:21]#[N:22]>>[C:4](=[C:5](/[N+:11]([O-:12])[O:13])[C:21]#[N:22])(\[N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44].[Cl-:1].[Cl:2][H:3],31.55334379769283
[F:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22].[H-:2]>>[C:4](=[C:5]([C:11]#[N:12])[C:21]#[N:22])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[F-:1].[H:2][H:3],5.369885601530125
